US05519043
9H-Fluorene-9-ethanethiol (10)
A solution of fluorene (20.0 g; 120 mmol) in THF (200 mL) was cooled to -40° C. and treated with 48 mL of a 2.5M solution of n-butyllithium in hexanes (120 mmol). After stirring for 15 minutes, a solution of ethylene sulfide (6.5 mL; 109 mmol) in 30 mL of THF was added, and the resulting mixture was stirred at -40° C. for 30 minutes and room temperature for 2 hours. The reaction was quenched by the addition of saturated ammonium chloride, the layers were separated, and the organic phase was washed with 10% HCl, dried and concentrated. The crude product was purified on a flash column, eluting with hexane, to provide 16.8 g (62%) of the product as an oil that recrystallized from hexane as a white solid, mp 38°-40° C.

reactant | fluorene | 120 mmol, 20.0 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene sulfide | 109 mmol, 6.5 mL | C1CS1 | C2H4S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 9H-Fluorene-9-ethanethiol | 16.8 g, 62% | C1=CC=CC=2C3=CC=CC=C3C(C12)CCS | C15H14S
